US05021082
A mixture of 17.0 g (0.1 mol) of 4,6-dimethoxy-2-hydrazino-pyrimidine, 8.3 ml of concentrated hydrochloric acid, 4.2 g (0.1 mol) of cyanamide and 100 ml of ethanol is boiled to reflux for 18 hours. The mixture is then evaporated, the residue is crystallized using diethyl ether, and the crystalline product is isolated by filtering off with suction. 22.9 g (92% of theory) of (4,6-dimethoxy-pyrimidin-2-yl-amino)-guanidine hydrochloride of melting point 214° C. are obtained.

reactant | 4,6-dimethoxy-2-hydrazino-pyrimidine | 0.1 mol, 17.0 g | COC1=NC(=NC(=C1)OC)NN | C6H10N4O2
reactant | hydrochloric acid | 8.3 ml | Cl | ClH
reactant | cyanamide | 0.1 mol, 4.2 g | N#CN | CH2N2
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (4,6-dimethoxy-pyrimidin-2-yl-amino)-guanidine hydrochloride | 22.9 g, 92% | Cl.COC1=NC(=NC(=C1)OC)NNC(=N)N | InChI=1S/C7H12N6O2.ClH/c1-14-4-3-5(15-2)11-7(10-4)13-12-6(8)9;/h3H,1-2H3,(H4,8,9,12)(H,10,11,13);1H
